data/mechanism_extracts/NatCommun/10.1038_s41467-026-68437-w.json
{"doi": "10.1038_s41467-026-68437-w", "journal": "NatCommun", "is_review": false, "rxn_class_summary": "Electrochemical cobalt-catalyzed asymmetric hydroacylation of 1,6-enynes with biaryl dialdehydes by a desymmetrization strategy, constructing remote dual stereocenters (central/axial, central/planar chirality).", "mechanism_family": ["electrocatalysis_inner_sphere", "mediator_cathodic"], "electrochemical_role": "Cathodic reduction of [(S,S)-BDPP]Co(II)Br2 precatalyst to a low-valent chiral Co(I) active species (E1/2 Co(II)/Co(I) = -0.56 V by CV); current is required for catalyst turn-on/regeneration.", "key_intermediates": [{"name": "Chiral Co(I)-BDPP active catalyst (Int-I)", "smiles": null, "role": "reactive"}, {"name": "Co(III) metallacycle from enantioselective oxidative cyclization of 1,6-enyne (Int-II)", "smiles": null, "role": "reactive"}, {"name": "Co(III) cobaltacycle after migratory insertion of dialdehyde C-H/C=O (Int-III)", "smiles": null, "role": "reactive"}, {"name": "Co(III)-alkyl/acyl species prior to β-hydride elimination (Int-IV)", "smiles": null, "role": "transient"}, {"name": "Diene byproduct 10 from enyne + EtOH (cobaltacycle protonation product)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Cathode reduces Co(II)Br2/BDPP to Co(I), which oxidatively cyclizes the 1,6-enyne to a Co(III) metallacycle (sets first stereocenter); migratory insertion of the prochiral dialdehyde sets the second stereocenter, then β-hydride elimination and C-C reductive elimination release the ketone product and regenerate Co(I).", "rate_determining_step": "Not C-H cleavage of the aldehyde (kH/kD ≈ 1.0); turnover-limiting step is proposed to be the oxidative cyclization / migratory insertion stage rather than aldehyde C-H activation.", "probe_reagents": [{"name": "D-1a (90% D-labeled dialdehyde)", "smiles": null, "purpose": "isotope_label", "observation": "Product D-3a obtained with 90% D incorporation, confirming aldehyde C-H is transferred to the alkene carbon of the product."}, {"name": "D-1a + 1c crossover mixture", "smiles": null, "purpose": "crossover", "observation": "Deuterium incorporated exclusively into D-3a (from D-1a), no crossover to 3q; rules out intermolecular ligand-to-ligand hydrogen transfer (intramolecular pathway)."}, {"name": "1a + D-1a parallel KIE", "smiles": null, "purpose": "KIE", "observation": "kH/kD ≈ 1.0, indicating C-H cleavage of the aldehyde is not rate-limiting."}, {"name": "Ethanol (proton source) with enyne 2a", "smiles": "CCO", "purpose": "intermediate_trap", "observation": "Affords diene 10 (31%, 38% e.e.), trapping the cobaltacycle and supporting an oxidative cyclization pathway."}, {"name": "Truncated substrates 11 (no alkene) and 12 (no alkyne)", "smiles": null, "purpose": "intermediate_trap", "observation": "No hydroacylation products formed, indicating both π-components are needed for oxidative cyclization (consistent with cobaltacycle Int-II)."}, {"name": "Cyclic voltammetry of [(S,S)-BDPP]CoBr2", "smiles": null, "purpose": "redox_probe", "observation": "Co(II)/Co(I) couple at -0.56 V supports cathodic generation of low-valent Co(I) under the applied current."}, {"name": "Control without current", "smiles": null, "purpose": "other", "observation": "No product; electricity is essential, consistent with electrocatalytic Co(I) generation."}, {"name": "X-ray diffraction of 3a and 9a", "smiles": null, "purpose": "other", "observation": "Confirms absolute configuration of axial/planar-central chirality products."}, {"name": "DFT rotational barrier of C-C axis in 3a", "smiles": null, "purpose": "other", "observation": "32.7 kcal/mol barrier (t1/2 ≈ 112 years), confirming atropostability."}], "evidence_types_used": ["KIE", "H/D_labeling", "crossover", "cyclic_voltammetry", "intermediate_trap_other", "isolation_of_intermediate", "DFT", "on/off_light_or_current"], "evidence_strength": "strong", "notes": "An alternative ligand-to-ligand hydrogen transfer (LLHT) pathway was explicitly excluded by the crossover experiment. The catalyst exerts dual stereocontrol in two distinct elementary steps: oxidative cyclization sets the central stereocenter on the pyrrolidine, while migratory insertion into the prochiral dialdehyde sets the remote C-C axial / C-O axial / [2.2]paracyclophane planar / ferrocene planar chirality (desymmetrization). The proposal closely parallels Lautens's Co-catalyzed hydroacylation cycle."}
